US07960569B2
1-(2-isopropylphenyl)-N-p-tolyl-1H-indole-3-carboxamide
To an ice cooled solution of 1-(2-isopropylphenyl)-1H-indole (117 mg, 0.50 mmol) and pyridine (42.5 μL, 0.0524 mmol) in dichloromethane (anhydrous) (3.0 mL) under a nitrogen atmosphere is added triphosgene (146 mg, 0.50 mmol) and the reaction allowed to stir with warming to ambient temperature for overnight. An aliquot of the reaction solution (600 μL, 0.1 mmol) is removed and added to a solution of triethylamine (28 μL, 0.1 mmol), N,N-dimethylaminopyridine (2.4 mg, 0.2 mmol), and p-toluidine (12 mg, 0.11 mmol) in dichloromethane (anhydrous) (1.0 mL) and stirred at ambient temperature for 14 hours). The reaction mixture was concentrated and the residue purified by RP HPLC to give Example 51. LC/MS (ESI+) 369.5 (M+H)+.

reactant | 1-(2-isopropylphenyl)-1H-indole | 0.50 mmol, 117 mg | C(C)(C)C1=C(C=CC=C1)N1C=CC2=CC=CC=C12 | C17H17N
reactant | pyridine | 0.0524 mmol, 42.5 μL | N1=CC=CC=C1 | C5H5N
reactant | triphosgene | 0.50 mmol, 146 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | triethylamine | 0.1 mmol, 28 μL | C(C)N(CC)CC | C6H15N
reactant | p-toluidine | 0.11 mmol, 12 mg | NC1=CC=C(C=C1)C | C7H9N
solvent | dichloromethane | 3.0 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
product | 1-(2-isopropylphenyl)-N-p-tolyl-1H-indole-3-carboxamide | C(C)(C)C1=C(C=CC=C1)N1C=C(C2=CC=CC=C12)C(=O)NC1=CC=C(C=C1)C | C25H24N2O
